US07119205B2
1-(4-Allyloxy-phenyl)-propan-1-one
To 1-(4-hydroxy-phenyl)-propan-1-one (4.6 g, 30 mmol) and K2CO3 (5 g, 36 mmol) in DMF (10 mL) was added allylbromide (7.26 g, 60 mmol) dropwise with violent stirring. The reaction mixture was stirred at room temperature for 12 h and filtered to remove salt. The filtrate was concentrated to yield the titled compound (5.5 g, 97%) as a colorless oil. 1H NMR (300 MHz, DMSO-d6) δ 7.94 (d, 2H, J=9.0 Hz), 7.05 (d, 2H, J=9.0 Hz), 6.05 (m, 1H), 5.44, 5.38, 5.30, 5.26 (4d, 2H, J=3.0 Hz), 4.66 (d, 2H, J=6.0 Hz), 2.98 (q, 2H, J=7.5 Hz), 1.07 (t, 3H, J=7.5 Hz). MS (ESI) m/e 191 (M+H)+; 189 (M−H)−.

reactant | 1-(4-hydroxy-phenyl)-propan-1-one | 30 mmol, 4.6 g | OC1=CC=C(C=C1)C(CC)=O | C9H10O2
reactant | K2CO3 | 36 mmol, 5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | allylbromide | 60 mmol, 7.26 g | C(C=C)Br | C3H5Br
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(4-Allyloxy-phenyl)-propan-1-one | 5.5 g, 97% | C(C=C)OC1=CC=C(C=C1)C(CC)=O | C12H14O2
